US08859574B2
A mixture of 5-(trifluoromethyl)-1H-pyrazol-3-amine (500 mg, 3.3 mmol), 2,4,5-trichloropyrimidine (607 mg, 3.3 mmol) and sodium carbonate (525 mg, 5 mmol) in anhydrous EtOH (10 mL) was stirred at rt. After one day, LCMS showed the reaction was not complete. Additional 2,4,5-trichloropyrimidine (0.15 mL) and sodium carbonate (525 mg) were added and the reaction continued for two more days. The solvent was evaporated, and the residue was extracted with DCM (3×20 mL). The combined DCM layers were washed with brine (10 mL), dried over Na2SO4 and evaporated. The crude product was purified by silica chromatography (0-50% EtOAc in hexanes gradient) to give 2,5-Dichloro-N-(5-(trifluoromethyl)-1H-pyrazol-3-yl)pyrimidin-4-amine as a light tan colored solid; ESMS m/z 297.9 (M+H+).

reactant | 5-(trifluoromethyl)-1H-pyrazol-3-amine | 3.3 mmol, 500 mg | FC(C1=CC(=NN1)N)(F)F | C4H4F3N3
reactant | 2,4,5-trichloropyrimidine | 3.3 mmol, 607 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 5 mmol, 525 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4,5-trichloropyrimidine | 0.15 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 525 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2,5-Dichloro-N-(5-(trifluoromethyl)-1H-pyrazol-3-yl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C(F)(F)F)Cl | C8H4Cl2F3N5
